Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old female with h/o paroxysmal afib on ASA, CAD s/p MI 
and CABG, hypothyroidism, complex partial seizures, dementia, 
prior C2 laminar fracture presents s/p 2 recent falls.

Patient reports that this all started in ___ of this year when 
she mistepped and fell down the stairs at her home in the middle 
of the night. She had C2 laminar fracture for which she is 
followed by neurosurg with plan to operate in ___. Since that 
time she has had several other falls. Most recently has had two 
significant episodes, one on ___ when she fell from the bathtub 
and could not get up, and the second on ___ when she fell out of 
bed. Her husband finds her to be "unusually weak" at these 
times. She denies any LOC, has not hit her head, no areas 
concerning for injury currently. Preceding the events she has a 
"fuzzy feeling" with sense of impaired balance but no 
dizziness/lightheadedness/vision impairment, no vertigo, no 
CP/palpitations/SOB. Over this time she has also noticed 
worsening involuntary "leg jerks" with feeling of restlessness, 
particularly at night but also occurring throughout the day.

Patient has history of complex partial seizures that she 
believes started around age ___ for which she is followed by 
neurology here. She is on lamictal and gabapentin, says that she 
now only has seizures around 1x/ mo during which she feels 
strange without LOC, not noticeable to observers. She has never 
had a fall due to a seizure. Of note neurology notes show she 
had a wide-based gait with some decreased DTRs in UEs in ___ 
but otherwise grossly normal neurologic exam.

She also has h/o CAD with prior MI and CABG in ___. She has 
paroxysmal afib for which she takes ASA but is not on 
anticoagulation. Denies any CP, palpitations, SOB recently.

In the ED, initial vital signs were: T 97.7 HR 59 BP 110/47 R 16 
O2 95% sat. Labs notable for electrolytes wnl, WBC 4.4, H/H 
11.2/34.9, lactate 0.9, trop-T < 0.01. UA with mod ___, neg 
nitrites, 57 WBCs with culture pending. CT head and CXR without 
acute processes. ECG with bradycardia, difficult to detect p 
waves. She was given ciprofloxacin x1 and 1L NS for presumed 
UTI. She had emesis x1 and was given ondansetron. Otherwise 
received only her usual home medications.

Upon arrival to the floor, the patient is stable, comfortable. 
Denies nausea but is not feeling particularly hungry for lunch. 
She feels too unstable to get up out of bed.

 
Past Medical History:
C2 laminar fracture with plan for C2 laminectomy and C2-C6 
fusion Asthma
Pulmonary hypertension
Myocardial Infarction ___ yrs ago, s/p RCA stent, CABG ___
Paorxysmal atrial fibrillation 
Hypercholesterolemia 
Complex partial seizures on lamictal and gabapentin

Surgical history:
C3, C4, C5 Cervical Laminectomy ___
Complete hysterectomy
Appendectomy
Tonsillectomy as a child 
Cataract (bilateral) surgery

 
Social History:
___
Family History:
Father died of his ___ MI at age ___ in ___. Mother died in 
early
___ of emphysema. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
PHYSICAL EXAM:
Vitals: T 97.9 HR 57 BP 123/48 RR 16 O2 96% on RA 
General: elderly woman, lying in bed in NAD. AOx3 with episodes 
of mild confusion
HEENT:  PERRL, EOMI, MMM
CV: RRR, ___ blowing holosystolic murmur heard throughout 
precordium but loudest at RUSB, audible in L carotid  
Lungs: clear to auscultation bilaterally 
Abdomen:  soft, nontender, nondistended, normoactive bowel 
sounds
GU: no catheter  
Ext: warm, well perfused, no edema  
Neuro: CN II-XII intact. ___ strength in R biceps, ___ strength 
in L upper extremity and bilateral lower extremities. Downgoing 
toes on plantar reflex. Sensation intact to light touch 
throughout. Proprioception impaired at toes b/l. No 
dysdiadokinesis on rapid alternating hand movements, mild 
difficulty with finger-nose-finger b/l. Very unstable with 
sitting or standing; did not assess gait.  Frequent small 
involuntary twitches of upper and especially lower extremities.
Skin: ecchymoses distributed on arms and legs 

DISCHARGE PHYSICAL EXAM:
Vitals: T 97.9 BP 138/62 P 51 RR 18 Sat 97% RA
General: elderly woman, sitting up in chair in NAD. AOx3 with 
episodes of mild confusion
HEENT:  PERRL, EOMI, MMM
CV: RRR, ___ blowing holosystolic murmur heard throughout 
precordium but loudest at RUSB, audible in L carotid  
Lungs: clear to auscultation bilaterally 
Abdomen:  soft, nontender, nondistended, normoactive bowel 
sounds
GU: no catheter  
Ext: warm, well perfused, no edema  
Neuro: CN II-XII intact. ___ strength in all 4 extremities. 
Finger-to-nose improved with mild intention tremor. Gait wide 
based but stable with walker.
Skin: ecchymoses distributed on arms and legs 

 
Pertinent Results:
ADMISSION LABS:
___ 07:45AM BLOOD WBC-4.4 RBC-3.83* Hgb-11.2 Hct-34.9 
MCV-91 MCH-29.2 MCHC-32.1 RDW-15.4 RDWSD-51.0* Plt ___
___ 07:45AM BLOOD Glucose-90 UreaN-18 Creat-0.8 Na-139 
K-4.2 Cl-105 HCO3-22 AnGap-16
___ 07:35AM BLOOD cTropnT-<0.01
___ 08:00AM BLOOD Lactate-0.9

PERTINENT LABS:
___ 05:35AM BLOOD VitB12-585
___ 05:35AM BLOOD TSH-0.81

DISCHARGE LABS:
Urine culture ___: ___________________
___ 05:35AM BLOOD WBC-4.5 RBC-3.55* Hgb-10.4* Hct-32.7* 
MCV-92 MCH-29.3 MCHC-31.8* RDW-15.3 RDWSD-52.0* Plt ___
___ 05:35AM BLOOD Glucose-89 UreaN-24* Creat-0.8 Na-138 
K-3.9 Cl-103 HCO3-27 AnGap-12
___ 05:35AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.3

IMAGING:
___ CT HEAD: No acute intracranial process.
___ CXR: No acute intrathoracic process.

___ CT C-spine:
1. No new fracture or change in alignment. 
2. Multilevel degenerative changes as described above, again 
most pronounced at the C3-4 level, where there is suggested at 
least moderate bony spinal canal stenosis, similar to recent 
prior cervical spine MRI.  Please note that this spinal stenosis 
increases risk for cord injury during cervical trauma. Recommend 
clinical correlation. If concern for cord injury, consider 
cervical spine MRI for further evaluation. 
3. Stable postsurgical change related C3 through C5 level 
laminectomies. 
4. Chronic fracture through the C2 spinous process and right C4 
pedicle. 
5. Stable C7 vertebral body compression deformity. 
6. Stable nonspecific left thyroid gland calcified nodules.  
Recommend 
clinical correlation.  If clinically indicated, consider thyroid 
ultrasound for further evaluation. 
RECOMMENDATION(S): 
1. Multilevel degenerative changes as described above, again 
most pronounced at the C3-4 level, where there is suggested at 
least moderate bony spinal canal stenosis, similar to recent 
prior cervical spine MRI.  Please note that this spinal stenosis 
increases risk for cord injury during cervical trauma. Recommend 
clinical correlation. If concern for cord injury, consider 
cervical spine MRI for further evaluation. 
2. Stable nonspecific left thyroid gland calcified nodules.  
Recommend 
clinical correlation.  If clinically indicated, consider thyroid 
ultrasound for further evaluation. 

___ MRI brain
1.  No evidence of acute intracranial hemorrhage or ischemia. 
2.  Stable, moderate temporal lobe atrophy and evidence of 
chronic small vessel ischemic disease. 
3.  Unchanged appearance of multiple foci of intraparenchymal 
susceptibility on GRE sequences, which may relate to cavernoma 
as microhemorrhages. 
4.  Stable, 1.0 cm extra-axial mass noted adjacent to the right 
sphenoid wing, compatible with a small meningioma. 

MICROBIOLOGY:
  URINE CULTURE (Final ___:    <10,000 organisms/ml. 
  URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
  BLOOD CULTURE x 2 ___: No growth to date.

 
Brief Hospital Course:
___ year old female with h/o paroxysmal afib on ASA, CAD s/p MI 
and CABG, hypothyroidism, complex partial seizures, dementia, 
prior C2 laminar fracture presents s/p 2 recent falls with 
pyuria and postural instability.

#Falls & Postural Instability: Patient presented with multiple 
recent falls and increasing sensation of poor balance. Of note 
one prior fall resulted in C2 laminar fracture with resulting 
instability for which she has planned neurosurgery in ___. On 
admission exam her mental status was at baseline but she did 
appear to have new development of postural instability and an 
increase in involuntary movements over the past few months 
leading up to her most recent fall on the night prior to 
admission. A CT head done in the ED was unremarkable, and 
subsequent head MRI and spinal cord CT showed no evidence of a 
new acute ischemic or hemorrhagic processes. Neurology was 
consulted, who suggested the symptoms could be consistent with 
high lamotrigine and/or gabapentin levels, so we decreased her 
lamotrigine dosage from 400mg oral DAILY to 300mg oral daily. 
Lamotrigine and gabapentin levels are pending.  ECG done on 
admission to the floor showed no evidence of new cardiac 
process. B12 was 585 and TSH was 0.81, which ruled out B12 
deficiency or hypo/hyperthyroidism as contributing to her 
symptoms. All her other labs were within normal limits during 
her time here. It is possible she may also have been orthostatic 
in setting of infection given pyuria (see below). Her 
instability improved substantially during her hospitalization. 
She worked with physical therapy and was ambulating well with a 
walker on day of discharge.

#Pyuria: Patient with asymptomatic pyuria (WBC 57) on 
presentation. Given her recent falls and instability on 
presentation we were initially also concerned for an infectious 
process. She was started on 1 dose of Cipro in ED and switched 
to Ceftriaxone 1g when she came up to the floor. She completed 3 
days of treatment with the ceftriaxone. Urine cultures came back 
with contamination. 

#1st degree AV block/sinus bradycardia: An ECG done on admission 
showed sinus bradycardia with PR prolongation, consistent with 
prior ECG from ___. She was kept on telemetry during her time 
here without any events. ECG from ___ with rate 48 and PR 
prolongation, suggested that this was likely a chronic issue. 

#Paroxysmal Afib: CHADS2vasc = 4, was in sinus bradycardia on 
amiodarone during time in the hospital. Patient was not on 
anticoagulation when she presented, and was not started on 
anticoagulation during her time here given fall risk. She was 
continued on her home aspirin 325mg, and home amiodarone.

#Seizure disorder: Reported seizures 1x/mo on her current 
regimen of lamotrigine and gabapentin. Of note patient had dose 
of lamotrigine increased from 300 to 400 mg daily 2 months prior 
to admission. Given her recent symptoms and concern for 
toxic/metabolic effect of lamotrigine, we decreased her dose of 
Lamotrigine to 300mg daily and continued her home Gabapentin 400 
mg PO/NG TID. Lamotrigine and gabapentin levels are pending. She 
will follow up with her neurologist Dr. ___ further 
management and medication adjustment as needed.

#HTN: BP within normal limits at presentation and throughout 
time in hospital. Continued on home lisinopril.

#Hypothyroidism: Did not experience any symptoms of 
hyper/hypothyroidism during her time here. TSH was 0.81 on ___. 
CT C-spine done in house demonstrated nonspecific left-sided 
calcified thyroid nodules for which she may require further 
investigation with thyroid ultrasound. Was continued on her home 
levothyroxine 100mcg PO daily. 

#Asthma: No shortness of breath and normal O2 sats during her 
time here. Continued on her home albuterol PRN and her home 
fluticasone PRN. 

TRANSITIONAL ISSUES:
#Will need to follow-up with her neurologist as an outpatient to 
further assess the cause of her postural instability and discuss 
her lamotrigine and gabapentin dosage.

#Will follow up as planned with neurosurgery for management of 
C2 laminar fracture.

#CT C-spine incidentally identified stable nonspecific left 
thyroid gland calcified nodules. Consider further evaluation 
with thyroid ultrasound.

#F/u on lamotrigine and gabapentin levels and adjust dosage 
accordingly.

#Recommend home home ___ to help with ambulation.

#Recommend using a walker for ambulation around the home to 
prevent future falls.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN SOB 
2. Amiodarone 200 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Gabapentin 400 mg PO TID 
6. LaMOTrigine 400 mg PO QHS 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Lisinopril 2.5 mg PO DAILY 
9. Aspirin 325 mg PO DAILY 
10. Docusate Sodium Dose is Unknown  PO DAILY:PRN constipation 

 
Discharge Medications:
1. Amiodarone 200 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Docusate Sodium 100 mg PO DAILY:PRN constipation 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Gabapentin 400 mg PO TID 
7. LaMICtal XR (lamoTRIgine) 300 mg oral DAILY 
RX *lamotrigine [Lamictal XR] 300 mg 1 tablet(s) by mouth daily 
Disp #*14 Tablet Refills:*0
8. Levothyroxine Sodium 100 mcg PO DAILY 
9. Lisinopril 2.5 mg PO DAILY 
10. albuterol sulfate 90 mcg/actuation inhalation Q6H:PRN SOB 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Falls

Secondary:
Pyuria
1st degree AV block/sinus bradycardia
Atrial fibrillation
Seizure Disorder
Hypothyroidism
Hypertension
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you here at the ___. You were 
admitted after two falls associated with increasing weakness and 
increasing instability on your feet. While you were here we 
obtained imaging of your head and spine, which looked similar to 
your old imaging, with no evidence of new brain bleeds, stroke, 
or worsening of your C2 fracture. Our neurology team were 
concerned about the increase in your dose of lamotrigine, so we 
decreased this back to 300 mg daily. You have also been working 
with physical therapy since your admission to help you feel more 
stable ambulating, and will continue to work with ___ at home. We 
also suggested you continue to use a walker to ambulate while at 
home to decrease your risk of future falls. We would like you to 
see your neurologist within a week of discharge to have further 
neurological evaluation as an outpatient and to determine if any 
adjustments should be made to your gabapentin and lamotrigine 
dosage once your levels come back.  

In addition to the above, on admission your urine showed lots of 
white blood cells, and you were treated for a presumed UTI. 

Please take all of your medications as prescribed and keep all 
of your follow-up appointments. It was a privilege to care for 
you during your hospital stay.

Best wishes,
Your care team at ___

 
Followup Instructions:
___